US07553845B2
4-[N-(tert-butoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium Bromide
2.90 g (10.6 mmol) of 2-bromo-1-(3-methoxy-4-nitrophenyl)-1-ethanone [described in Bull. Soc. Chim. Fr., (1962), pp 2255-2261] are added in portions to 2.07 g (10.6 mmol) of 4-[N-(tert-butoxycarbonyl)amino]pyridine [described in Tetrahedron; (2001), vol 57(43), pp 9033-9044] in suspension in 10 mL of acetonitrile and 20 mL of acetone. The reaction medium becomes homogeneous by stirring at room temperature and then precipitation occurs. The medium is stirred for 1 hour at room temperature. The precipitate formed is filtered, washed with acetone and dried. 4.6 g of a white powder are obtained.

reactant | 2-bromo-1-(3-methoxy-4-nitrophenyl)-1-ethanone | 10.6 mmol, 2.90 g | BrCC(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C9H8BrNO4
reactant | 4-[N-(tert-butoxycarbonyl)amino]pyridine | 10.6 mmol, 2.07 g | C(C)(C)(C)OC(=O)NC1=CC=NC=C1 | C10H14N2O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-[N-(tert-butoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium Bromide | 4.6 g, Yield: 93% | [Br-].C(C)(C)(C)OC(=O)NC1=CC=[N+](C=C1)CC(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC | InChI=1S/C19H21N3O6.BrH/c1-19(2,3)28-18(24)20-14-7-9-21(10-8-14)12-16(23)13-5-6-15(22(25)26)17(11-13)27-4;/h5-11H,12H2,1-4H3;1H
